US07371772B2
To methyl 8-(4-(2-butoxyethoxy)phenyl)-1-isobutyl-9-methyl-1,2,3,4-tetrahydro-1-benzoazocine-5-carboxylate (770 mg) were added tetrahydrofuran (15 ml) and methanol (15 ml), followed by adding aqueous 1N sodium hydroxide solution (4.8 ml), and the mixture was stirred at 90° C. overnight. After cooling to 0° C., water was added and the mixture was neutralized with 1N hydrochloric acid. After extracting with ethyl acetate, the organic layer was washed with saturated brine, and dried with magnesium sulfate. The solvent was distilled off under reduced pressure, and the resulting residue was recrystallized from hexane-ethyl acetate to give 8-(4-(2-butoxyethoxy)phenyl)-1-isobutyl-9-methyl-1,2,3,4-tetrahydro-1-benzoazocine-5-carboxylic acid (408 mg) as yellow crystals.

reactant | methyl 8-(4-(2-butoxyethoxy)phenyl)-1-isobutyl-9-methyl-1,2,3,4-tetrahydro-1-benzoazocine-5-carboxylate | 770 mg | C(CCC)OCCOC1=CC=C(C=C1)C=1C(=CC2=C(C=C(CCCN2CC(C)C)C(=O)OC)C1)C | C30H41NO4
reactant | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 1N, 4.8 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | water | O | H2O
solvent | methanol | 15 ml | CO | CH4O
product | 8-(4-(2-butoxyethoxy)phenyl)-1-isobutyl-9-methyl-1,2,3,4-tetrahydro-1-benzoazocine-5-carboxylic acid | 408 mg | C(CCC)OCCOC1=CC=C(C=C1)C=1C(=CC2=C(C=C(CCCN2CC(C)C)C(=O)O)C1)C | C29H39NO4
